US06423699B1
To a solution of N-(5-bromo-2-nitrophenyl)-alanine (22 g, 76 mmol) in acetic acid (300 ml) was added iron powder (10 g, 180 mmol), and the mixture was stirred for 2 hours at 90° C. The reaction mixture was cooled and filtered, and the acetic acid was evaporated. The remaining slurry was extracted with methylene chloride (3×200 ml). The combined extracts were combined, dried over magnesium sulfate, filtered, and evaporated to afford 6-bromo-3-methyl-3,4-dihydro-1H-quinoxalin-2-one (9.4 g, 51% ). A sample was recrystallized from ethanol: m.p. 133-135° C. 1H-NMR (DMSO-d6) δ 1.23 (d, J=6.81 Hz, 3H), 3.80 (q, J=6.81 Hz, 1H), 6.27 (bs, 1H), 6.63 (d, J=8.35 Hz, 1H), 6.72 (dd, J=8.35, 1.76 Hz, 1H), 6.80 (d, J=1.76 Hz, 1H), 10.29 (s, 1H).

reactant | N-(5-bromo-2-nitrophenyl)-alanine | 76 mmol, 22 g | BrC=1C=CC(=C(C1)N[C@@H](C)C(=O)O)[N+](=O)[O-] | C9H9BrN2O4
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 180 mmol, 10 g | [Fe] | Fe
product | 6-bromo-3-methyl-3,4-dihydro-1H-quinoxalin-2-one | 9.4 g, 51% | BrC=1C=C2NC(C(NC2=CC1)=O)C | C9H9BrN2O
